US08222424B2
1-Ethyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one
3-Ethylamino-propionic acid methyl ester (2.41 g, 18.4 mmol) is added to a solution of 2-indanone (2.3 g, 17.33 mmol) in toluene (27 mL), and the reaction is brought to reflux for 2 hours. Toluene is removed in vacuo and the residue is dissolved in ethylene glycol (23 mL) and the resulting solution is heated to reflux for 8 hours. The reaction is allowed to cool to ambient temperature and is poured over water and extracted with dichloromethane. The organic phase is dried over magnesium sulfate and concentrated in vacuo to afford the crude title compound. The crude product is purified by silica gel chromatography (gradient of ethyl acetate in hexanes 10-100%) affording 1 g (27% yield) of the title compound. MS (m/z): 213.3 (M+1).

reactant | 3-Ethylamino-propionic acid methyl ester | 18.4 mmol, 2.41 g | COC(CCNCC)=O | C6H13NO2
reactant | 2-indanone | 17.33 mmol, 2.3 g | C1C(CC2=CC=CC=C12)=O | C9H8O
solvent | toluene | 27 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Ethyl-1,3,4,9-tetrahydro-indeno[2,1-b]pyridin-2-one | 1 g, 27% yield | C(C)N1C2=C(CCC1=O)C=1C=CC=CC1C2 | C14H15NO
